US05221676
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl-6,7 difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (1.06 g, 4.0 mmol) and 3-(3-pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (1.15 g, 73%) as an off white solid, mp 233°-236° C.

reactant | 1-cyclopropyl-6,7 difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.0 mmol, 1.06 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 3-(3-pyrrolidinyl)pyridine | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid | 1.15 g, 73% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)C=1C=NC=CC1)F)=O)C(=O)O | C22H20FN3O3
